US09231215B2
Synthesis of 2,3-dibromo-1,4-bis-trimethylsilanyl-benzene
LDA (2 M, 70 mL, 140 mmol) was added dropwise to a solution of 1,2-dibromobenzene (15.0 g, 64 mmol) and chlorotrimethylsilane (20 mL, 153 mmol) in THF (90 mL) at −78° C. The resultant brown suspension was stirred at −78° C. for 30 min and then gradually warmed to room temperature. The reaction mixture was stirred for 18 h and then cooled to −78° C. again and chlorotrimethylsilane (20 mL, 153 mmol) was added. LDA (2M, 70 mL, 140 mmol) was added dropwise and the resultant brown suspension was stirred at −78° C. for 30 mins and then gradually warmed to room temperature. The reaction mixture was stirred for a further 18 h and then hydrolyzed with 1 N HCl (100 mL). The resultant mixture was extracted with diethyl ether (3×200 mL) and the combined organic layers was concentrated to give brown oil, which was used directly in the next step without further purification. 1H NMR (400 MHz, CDCl3) δ 7.34 (s, 2H), 0.40 (18H).

reactant | LDA | 140 mmol, 2 M, 70 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1,2-dibromobenzene | 64 mmol, 15.0 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | chlorotrimethylsilane | 153 mmol, 20 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | chlorotrimethylsilane | 153 mmol, 20 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | LDA | 140 mmol, 2M, 70 mL | [Li+].CC(C)[N-]C(C)C
reactant | HCl | 1 N, 100 mL | Cl | ClH
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | 2,3-dibromo-1,4-bis-trimethylsilanyl-benzene | BrC1=C(C=CC(=C1Br)[Si](C)(C)C)[Si](C)(C)C | C12H20Br2Si2
